Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest Pain, Dyspnea, Atrial Fibrillation
 
Major Surgical or Invasive Procedure:
___ - Echocardiogram
 
History of Present Illness:
Mr. ___ speaking ___ year old man with history 
of HTN, HLD, question of atrial fibrillation diagnosed ___ years 
ago (unknown if on anticoagulation) who is visiting from 
___ and presents with acute on chronic epigastric pain, 
abdominal distention, and dyspnea on exertion. Patient states 
that ___ years ago a cardiologist in his home ___ told him he 
has an enlarged heart, with "irregular" palpitations, which he 
notes get worse on ambulation. He denies chest pain/pressure, 
but endorses a diffuse epigastric pain.  He denies, 
nausea/vomiting, hematochezia or melena, fevers, chills. He 
denies lower extremity edema. 

Patient reports 2 weeks of worsening episodes of chest pressure, 
now triggered with minimal exertion, relieved by rest, also has 
abdom bloating that is per family a known chronic issue, and did 
not change over the last 2 weeks, he is now unable to walk for 
more than a few minutes without sx, and the family lives on the 
third floor and as soon as he is trying to climb stairs, he 
feels his heart racing quite fast and he feels SOB and 
dizzy/lightheaded with these episodes.
no n/v/d, nl BM today. CP free at rest. 

In ___ he is followed by a cardiologist takes 100mg ASA 
QD, spironolactone, carvediolol, fureosimide and rosvastatin. He 
reports Echo in ___ ___ ago with Dx of LVH, likely also afib 
diagnosed back then. He is not currently anticoagulated. No PMHx 
of ICH or GI bleeds or allergies. At rest asymptomatic. 

In the ED, he was treated with 1 mg morphine, 1L NS, 324 mL ASA, 
243 mg chewed ASA, Nitroglycerin SL 0.4 mg SL. He took GI 
cocktail (viscous , Aluminum-Magnesium Hydrox.-Simethicone)   
and feels much improved. Plan for admit 
- In the ED initial vitals were: 98.5 90 140/90 18 98% RA. 
- EKG: afib, TWI inf/lat.
- Trops: ___ @
- Labs notable for: ProBNP 277, D-dimer 181, PTT: 33.6, INR: 
1.0. LFTs chem 7 wnl. 
- CXR showed no acute cardiopulmonary abnormality.
- Patient was given: Aspirin 324mg, Viscous Lidocaine, and 
Aluminum-Magnesium Hydroxide-Simethicone.
- Vitals on transfer: 97.8 84 137/91 17 96% RA.
 
Past Medical History:
1. CARDIAC RISK FACTORS: +hypertension, +dyslipidemia, +diabetes
2. CARDIAC HISTORY:
- CABG: None
- PERCUTANEOUS CORONARY INTERVENTIONS: None
- PACING/ICD: None
3. OTHER PAST MEDICAL HISTORY:
Bilateral cataracts; removed.
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.
 
Physical Exam:
Admission Physical Exam:
VS: T= 98.8 BP=118/42-141/89 HR=93 RR=18 O2 sat=97%RA WT: 98.0 
kg 
Mental Status: A+OX3, pt ___ speaking only, independently
Lines & Drains: #18 R AC
GENERAL: NAD. Oriented x3. Mood, affect appropriate.
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. mild 
xanthelasma.
NECK: Supple with JVP of 5 cm.
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No murmurs/rubs/gallops. No thrills, 
lifts.
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.
ABDOMEN: Obese, positive ___, LUQ pain, no guarding, no 
rebounding. Budging flanks, + organomegaly. Normoactive bowel 
sounds. 
EXTREMITIES: No peripheral edema 
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
PULSES: Distal pulses palpable and symmetric

Discharge Physical Exam:
Afebrile, BP 120-130s/80-90s, HR 80-90s
Exam otherwise unchanged.
 
Pertinent Results:
===============
Admission Labs:
===============
___ 09:55PM BLOOD WBC-8.4 RBC-4.36* Hgb-13.6* Hct-40.8 
MCV-94 MCH-31.2 MCHC-33.3 RDW-13.6 RDWSD-46.1 Plt ___
___ 09:55PM BLOOD Neuts-58.7 Lymphs-18.5* Monos-11.4 
Eos-9.4* Baso-0.6 Im ___ AbsNeut-4.91 AbsLymp-1.55 
AbsMono-0.95* AbsEos-0.79* AbsBaso-0.05
___ 09:55PM BLOOD ___ PTT-33.6 ___
___ 09:55PM BLOOD Glucose-118* UreaN-16 Creat-0.9 Na-139 
K-4.1 Cl-105 HCO3-27 AnGap-11
___ 09:55PM BLOOD ALT-25 AST-23 AlkPhos-95 TotBili-0.3
___ 09:55PM BLOOD Lipase-45
___ 09:55PM BLOOD cTropnT-<0.01 proBNP-277*
___ 09:55PM BLOOD D-Dimer-181

==============
Interval Labs:
==============
___ 04:08AM BLOOD cTropnT-<0.01

===============
Discharge Labs:
===============
___ 05:20AM BLOOD WBC-9.9 RBC-4.61 Hgb-14.3 Hct-43.0 MCV-93 
MCH-31.0 MCHC-33.3 RDW-13.7 RDWSD-46.0 Plt ___
___ 05:20AM BLOOD Glucose-102* UreaN-18 Creat-1.0 Na-139 
K-4.1 Cl-103 HCO3-25 AnGap-15
___ 05:20AM BLOOD Calcium-9.5 Phos-3.9 Mg-2.0

========
Imaging:
========
ECG ___
Atrial fibrillation with a moderate ventricular response. Left 
axis deviation with left anterior fascicular block. Inferior and 
anterolateral ST-T wave abnormality suggestive of myocardial 
ischemia. No previous tracing available for comparison. Clinical 
correlation is suggested.

CXR ___
Impression: No acute cardiopulmonary abnormality.

TTE ___
The left atrium is normal in size. There is mild symmetric left 
ventricular hypertrophy. The left ventricular cavity size is top 
normal/borderline dilated. Regional left ventricular wall motion 
is normal. Overall left ventricular systolic function is low 
normal (LVEF 50-55%). There is considerable beat-to-beat 
variability of the left ventricular ejection fraction due to an 
irregular rhythm/premature beats. Right ventricular chamber size 
and free wall motion are normal. The aortic valve leaflets (3) 
are mildly thickened but aortic stenosis is not present. No 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. There is no mitral valve prolapse. Physiologic 
mitral regurgitation is seen (within normal limits). The 
estimated pulmonary artery systolic pressure is normal. There is 
no pericardial effusion. 

IMPRESSION: Suboptimal image quality. Mild symmetric left 
ventricular hypertrophy with borderline dilated cavity and low 
normal systolic function. Preserved right ventricular systolic 
function.

=============
Microbiology:
=============
Helicobacter Pylori Antibody Test ___ - Positive by EIA
 
Brief Hospital Course:
Mr. ___ speaking ___ year old man with history 
of HTN, HLD, question of atrial fibrillation diagnosed ___ years 
ago (unknown if on anticoagulation) who is visiting from 
___ and presented to ED with acute on chronic epigastric 
pain, abdominal distention, and dyspnea on exertion.

Upon transfer to the floor, patient was normotensive, his 
epigastric and sternal chest pain were well-controlled. He was 
restarted on his home medications: Spironolactone 25 mg qD, 
Rosuvastatin 20 mg, Carvedilol 12.5 mg PO BID and ASA 100 mg PO 
qD. His home irbesartan 150 mg oral BID dose was converted to 
losartan 50 mg BID. He remained chest pain free overnight, BP 
and HR were well controlled, and patient ambulated several times 
around the floor without DOE or chest pain. ECHO showed mild 
symmetric left ventricular hypertrophy with borderline dilated 
cavity and low normal systolic function, LEVF (50-55%). On 
discharge, his was restarted on his home medications. 

On admission, patient had epigastric pain with substernal pain 
the radiated up into his throat. He was started on omeprazole 
and tested for h.pylori IgG. He was found to be h.pylori IgG 
positive. He was placed on triple therapy prior to discharge for 
fourteen days (start: ___ end: ___: Amoxcillin 
1000mg BID, Clarithomycin 500 mg BID, Pantropzole BID. 

Patient's daughter-in-law works with Generatology her at ___. 
Patient is from ___ and plans to return on ___. 
Daughter in-law is trying to schedule follow up with the 
Generatolgists. Patient does not have insurance in the ___ 
___ and would need to pay out of pocket $200 for a visit to 
___. 

Transitional Issues: 
[] Discharged with treatment for H. pylori. If patient continues 
to have acid reflux symptoms after treatment, would recommend 
testing for clearance with stool studies and if positive would 
consider further treatment.
[] Discharged on home medications. 
[] Patient ___ speaking only. 
[] Patient currently not an anticoagulation for atrial 
fibrillation.
[] Discharge weight: 98.0 kg 
[] ___ contact: ___ ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Spironolactone 25 mg PO DAILY 
2. Rosuvastatin Calcium 20 mg PO QPM 
3. irbesartan 150 mg oral BID 
4. Carvedilol 12.5 mg PO BID 
5. Aspirin 100 mg PO DAILY
 
Discharge Medications:
1. Aspirin 100 mg PO DAILY 
2. Carvedilol 12.5 mg PO BID 
3. Rosuvastatin Calcium 20 mg PO QPM 
4. Spironolactone 25 mg PO DAILY 
5. irbesartan 150 mg ORAL BID 
6. Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg Take 1 tablet(s) by mouth twice daily 
Disp #*28 Tablet Refills:*0
7. Amoxicillin 1000 mg PO BID 
RX *amoxicillin 500 mg Take 2 capsules by mouth twice daily Disp 
#*56 Capsule Refills:*0
8. Clarithromycin 500 mg PO Q12H 
RX *clarithromycin 500 mg Take 1 tablet by mouth twice daily 
Disp #*28 Tablet Refills:*0
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
- H. Pylori Infection
- Atrial Fibrillation
- Heart Failure
- Hypertension
- Hyperlipidemia 
- GERD
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to ___ for treatment of your chest 
pain and stomach pain. We test your blood for markers of heart 
disease, your markers were normal (proBNP 277, Troponin <0.01). 
We completed an ECG which looks at the rate and rhythm of your 
heart. You heart has an irregular rhythm, a condition called 
atrial fibrillation. You heart rate is well controlled. We also 
did an imaging study to look at the functioning of your heart 
(Echocardiogram) which was normal. 

You also had abdominal pain. We tested you for a bacteria that 
lives in your stomach and can cause pain and ulcers (H. pylori) 
and the test was positive. We are starting you on antibiotics to 
treat this infection: Amoxcillin 1000mg, Clarithromycin 500mg 
and Pantropzole 40 mg for fourteen days. It is important to take 
all of your medication, even if you are feeling better. If you 
continue to have abdominal pain like acid reflux after 
completing your antibiotics you should follow-up with a 
physician to test to make sure the infection was cleared. This 
test is usually done with a stool sample. 

You should continue taking your home medications. 

It is important to follow up with your physicians in ___ 
when you return regarding your atrial fibrillation and the 
results of your Echocardiogram. 

You should continue to take your home medications as prescribed 
and return to the ER if you experience chest pain and worsening 
shortness of breath. 

Thank you for allowing us to take part in your care. Be well! 

Your ___ care team    
 
Followup Instructions:
___